US05760041
A solution of 23.74 ml of 3-bromo aniline and 40.5 g N'-(2-cyano-4-nitrophenyl)-N,N-dimethylformamidine in 100 ml of glacial acetic acid was stirred and heated in an oil bath at 148° C. for 1.5 hours. On cooling, filtration of the resulting solid gives a quantitative yield of N-(3-bromophenyl)-6-nitro-4-quinazolinamine: mp=267°-270° C.; mass spectrum (m/e): 345.

reactant | 3-bromo aniline | 23.74 ml | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | N'-(2-cyano-4-nitrophenyl)-N,N-dimethylformamidine | 40.5 g | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])N=CN(C)C | C10H10N4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | N-(3-bromophenyl)-6-nitro-4-quinazolinamine | quantitative yield | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C14H9BrN4O2
